US06825181B1
Step 1: Synthesis of ethyl 1-(4-pyridyl)-piperidine-4-carboxylate:
4.0 g (26.6 mmol) of 4-chloropyridine hydrochloride, 4.2 g (26.6 mmol) of ethyl piperidine-4-carboxylate and 7.4 ml (53.2 mmol) of triethylamine were stirred in 100 ml of xylene at 130° C. for 24 hours. The reaction mixture was treated with ethyl acetate as the extraction solvent in an ordinary manner to obtain the title compound.

reactant | 4-chloropyridine hydrochloride | 26.6 mmol, 4.0 g | Cl.ClC1=CC=NC=C1
reactant | ethyl piperidine-4-carboxylate | 26.6 mmol, 4.2 g | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | triethylamine | 53.2 mmol, 7.4 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl 1-(4-pyridyl)-piperidine-4-carboxylate | N1=CC=C(C=C1)N1CCC(CC1)C(=O)OCC | C13H18N2O2
